US04886814
N-[2-(4-Carboxyphenyl)ethyl]-2-hydroxy-2-(2-benzoylamino-thiazol-4-yl)ethanamine
Prepared analogously to Example 2 by reaction of N-[2-(4-carboethoxyphenyl)ethyl]-2-hydroxy-2-(2-benzoylamino-thiazol-4-yl)ethanamine with 1N sodium hydroxide solution, followed by purification of the crude product on a silica gel column using chloroform/methanol=1:1 and trituration with water/ethanol=9:1.

reactant | N-[2-(4-carboethoxyphenyl)ethyl]-2-hydroxy-2-(2-benzoylamino-thiazol-4-yl)ethanamine | C(=O)(OCC)C1=CC=C(C=C1)CCNCC(C=1N=C(SC1)NC(C1=CC=CC=C1)=O)O | C23H25N3O4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | N-[2-(4-Carboxyphenyl)ethyl]-2-hydroxy-2-(2-benzoylamino-thiazol-4-yl)ethanamine | C(=O)(O)C1=CC=C(C=C1)CCNCC(C=1N=C(SC1)NC(C1=CC=CC=C1)=O)O | C21H21N3O4S
